US07714010B2
b) 7,7-Dimethyl-2-methylamino-5-pentyl-1-(toluene-4-sulfonyl)-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one
To a solution of 7,7-dimethyl-2-methylamino-5-pentyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one (230 mg) in pyridine (6 ml) is added 4-methyl-benzenesulfonyl chloride (160 mg; 0.84 mmol) at 0° C. After addition the mixture is warmed to RT and stirred for 48 h. The reaction solution is dissolved with water and the aqueous layer is extracted with EtOAc. The combined organic layer is washed with hydrochloric acid (0.5 N) and brine, dried over Na2SO4 and concentrated in vacuo. The compound (135 mg) is obtained by flash chromatography on silica gel eluting with CH2Cl2/MeOH (40:1).

reactant | 7,7-dimethyl-2-methylamino-5-pentyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 230 mg | CC1(C(N(C=2C=C3C(=CC12)NC(=N3)NC)CCCCC)=O)C | C17H24N4O
reactant | 4-methyl-benzenesulfonyl chloride | 0.84 mmol, 160 mg | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | water | O | H2O
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | 7,7-Dimethyl-2-methylamino-5-pentyl-1-(toluene-4-sulfonyl)-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 135 mg | CC1(C(N(C=2C=C3C(=CC12)N(C(=N3)NC)S(=O)(=O)C3=CC=C(C=C3)C)CCCCC)=O)C | C24H30N4O3S
